US07514470B2
N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-ethyl-N1,N1-dipropylglycinamide
Synthesized as described in example 3 using N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine and dipropylamine: 1H NMR (400 MHz, CDCl3) δ 7.55 (d, J=9.0 Hz, 1H), 6.76 (d, J=2.5 Hz, 1H), 6.65 (dd, J=8.8, 2.5 Hz, 1H), 4.14 (s, 2H), 3.51 (m, 2H), 3.31 (t, J=7.5 Hz, 2H), 3.25 (t, J=6.7 Hz, 2H), 1.63 (m, 4H), 1.25 (t, J=7.1 Hz, 3H), 1.00 (t, J=7.3 Hz, 3H), 0.88 (t, J=7.4 Hz, 3H).

reactant | N-[4-cyano-3-(trifluoromethyl)phenyl]-N-ethylglycine | C(#N)C1=C(C=C(C=C1)N(CC(=O)O)CC)C(F)(F)F | C12H11F3N2O2
reactant | dipropylamine | C(CC)NCCC | C6H15N
product | N2-[4-Cyano-3-(trifluoromethyl)phenyl]-N2-ethyl-N1,N1-dipropylglycinamide | C(#N)C1=C(C=C(C=C1)N(CC(=O)N(CCC)CCC)CC)C(F)(F)F | C18H24F3N3O
